US04705867
8.6 grams (0.113 mole) of thioacetic acid in 20 ml of water-free ethanol were neutralized to phenolphthalein with 81 ml of 10% ethanolic potash solution (0.113 mole potassium hydroxide) and 29.7 grams (0.1 mole) of 6-bromo-8-methylthiooctanoic acid ethyl ester added. The mixture was heated at reflux for 6 hours in a nitrogen atmosphere and allowed to stand for 10 hours at room temperature. The precipitated potassium bromide was filtered off, the filtrate concentrated in a vacuum, the residue taken up in 300 ml of diethyl ether and filtered, the filtrate was washed twice, each time with 100 ml of water, dried with sodium sulfate and concentrated in a vacuum. There were obtained 26 grams (89% of theory) of crude 6-acetylthio-8-methylthiooctanoic acid ethyl ester.

reactant | thioacetic acid | 0.113 mole, 8.6 grams | C(C)(=S)O | C2H4OS
reactant | phenolphthalein | C=1C=CC2=C(C1)C(=O)OC2(C=3C=CC(=CC3)O)C=4C=CC(=CC4)O | C20H14O4
reactant | potash | 0.113 mole, 81 ml | C(=O)([O-])[O-].[K+].[K+]
reactant | 6-bromo-8-methylthiooctanoic acid ethyl ester | 0.1 mole, 29.7 grams | C(C)OC(CCCCC(CCC)Br)=S | C11H21BrOS
solvent | water | 20 ml | O | H2O
product | 6-acetylthio-8-methylthiooctanoic acid ethyl ester | 26 grams, 89% | C(C)OC(CCCCC(CCC)SC(C)=O)=S | C13H24O2S2
